US04311799
p-Isopropylaminoethylstyrene
In a 300 ml four necked flask equipped with a thermometer, a reflux condenser, an inlet for nitrogen and a stirrer were charged 1860 ml of dry n-hexane and 148 g of iso-propylamine. While stirring the mixture, 119 ml of a 15% n-butyllithium n-hexane solution were added dropwise thereto. During the addition, the temperature was maintained at 5° C. to 7° C. The color of the solution was changed from colorless to pale yellow. After 10 minutes, 325 g of p-divinylbenzene having a purity of 96% were added to the mixture, whereby the color of the reaction mixture was changed to brown. Then, the inner temperature was elevated to 45° C., at which the reaction was continued for 6 hours. After the reaction, the reaction was terminated with ethanol and the solvent was evaporated. The residue was poured into 2 l of n-hexane and the insoluble are filtered off, followed by evaporation and distillation, whereby there were obtained 230 g of the product having a boiling point of 62° C.-64° C./0.08 mmHg.

reactant | iso-propylamine | 148 g | C(C)(C)N | C3H9N
reactant | n-butyllithium n-hexane | CCCCCC.C(CCC)[Li]
reactant | p-divinylbenzene | 325 g | C(=C)C1=CC=C(C=C1)C=C | C10H10
solvent | n-hexane | 1860 ml | CCCCCC | C6H14
product | p-Isopropylaminoethylstyrene | 230 g | C(C)(C)NCCC1=CC=C(C=C)C=C1 | C13H19N
